US07485283B2
Synthesis of 1-(4-fluoro-2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethyoxy-phenyl)-ethanone
To a solution of toluene-4-sulfonic acid 2-(2,2-dimethyl-chroman-6-yl)-2-oxo-1-(3,4,5-trimethoxy-phenyl)-ethyl ester (21.6 mg, 0.04 mmol) in anhydrous ACN (0.5 mL) is added KF (4.72 mg, 0.08 mmol) and Kryptofix (30.6 mg, 0.08 mmol). After completion of addition the reaction mixture is heated to 90° C. After 15 minutes, the reaction mixture is cooled down to room temperature and diluted with water. The aqueous layer is separated and extracted with ethyl acetate (3×). All combined organic layers are dried over Na2SO4, filtered, and concentrated to yield an oil. The crude material is purified using reverse phase to yield the desired compound.

reactant | toluene-4-sulfonic acid 2-(2,2-dimethyl-chroman-6-yl)-2-oxo-1-(3,4,5-trimethoxy-phenyl)-ethyl ester | 0.04 mmol, 21.6 mg | CC1(OC2=CC=C(C=C2CC1)C(C(C1=CC(=C(C(=C1)OC)OC)OC)OS(=O)(=O)C1=CC=C(C=C1)C)=O)C | C29H32O8S
reactant | KF | 0.08 mmol, 4.72 mg | [F-].[K+]
solvent | ACN | 0.5 mL | C(C)#N | C2H3N
solvent | water | O | H2O
product | 1-(4-fluoro-2,2-dimethyl-chroman-6-yl)-2-(3,4,5-trimethyoxy-phenyl)-ethanone | FC1CC(OC2=CC=C(C=C12)C(CC1=CC(=C(C(=C1)OC)OC)OC)=O)(C)C | C22H25FO5
